US07384931B2
1-[[(7S)-4-chloro-9-(2,2-dimethylpropyl)-3,6,7,8,9,10-hexahydro-8-oxoazepino[3,4-e]indazol-7-yl]acetyl]-4-(1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl)-piperidine.
3-(piperidin-4-yl)-1,8-naphthyridin-2(1H)-one (57 mg, 0.19 mmol) and [4-chloro-9-(2,2-dimethyl-propyl)-8-oxo-3,6,7,8,9,10-hexahydro-2,3,9-triaza-(S)-cyclohepta[e]inden-7-yl]acetic acid (60 mg, 0.16 mmol) were combined in a manner analogous to the preparation of 4-Chloro-9-(2,2-dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one. Title compound was obtained as white solid in 64% yield. High resolution MS m/e (M+H)+=575.2538.

reactant | 3-(piperidin-4-yl)-1,8-naphthyridin-2(1H)-one | 0.19 mmol, 57 mg | N1CCC(CC1)C=1C(NC2=NC=CC=C2C1)=O | C13H15N3O
reactant | 4-Chloro-9-(2,2-dimethyl-propyl)-7-(R)-{2-oxo-2-[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidin-1-yl]-ethyl}-6,7,9,10-tetrahydro-3H-2,3,9-triaza-cyclohepta[e]inden-8-one | ClC1=CC2=C(C=3C=NNC13)CN(C([C@H](C2)CC(N2CCC(CC2)N2C(NC1=CC=CC=C1C2)=O)=O)=O)CC(C)(C)C | C31H37ClN6O3
product | 1-[[(7S)-4-chloro-9-(2,2-dimethylpropyl)-3,6,7,8,9,10-hexahydro-8-oxoazepino[3,4-e]indazol-7-yl]acetyl]-4-(1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl)-piperidine | 64% yield | ClC1=CC2=C(C=3C=NNC13)CN(C([C@@H](C2)CC(=O)N2CCC(CC2)C=2C(NC1=NC=CC=C1C2)=O)=O)CC(C)(C)C | C31H35ClN6O3
